US07132547B2
(±)-8-{3-[1-(2,3-Dihydro-1H-inden-1-yl)-4-piperidinyl]propanoyl}-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one hydrochloride
1-Chloroindane (360 mg) was added to a suspension of 8-[3-(4-piperidinyl)propanoyl]1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one (700 mg), potassium carboante (700 mg) and potassium iodide (catalytic amount) in acetonitrile (10 ml) at room temperature, the mixture was stirred for 12 hours, and the reaction mixture was concentrated under reduced pressure. Water (15 ml) and ethyl acetate (20 ml) were added to the residue, and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel chromatography (eluting solvent; ethyl acetate-methanol (9:1)) to give a free base compound of the title compound as colorless crystals (285 mg) having a melting point of 111 to 113° C. The free base compound (270 mg) was treated with a hydrogen chloride-ethanol solution to give the title compound (270 mg) as pale yellow amorphous powders.

reactant | 1-Chloroindane | 360 mg | ClC1CCC2=CC=CC=C12 | C9H9Cl
reactant | 8-[3-(4-piperidinyl)propanoyl]1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one | 700 mg | N1CCC(CC1)CCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | C19H24N2O2
reactant | potassium | [K] | K
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (±)-8-{3-[1-(2,3-Dihydro-1H-inden-1-yl)-4-piperidinyl]propanoyl}-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one hydrochloride | 285 mg | Cl.C1(CCC2=CC=CC=C12)N1CCC(CC1)CCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | InChI=1S/C28H32N2O2.ClH/c31-26(23-17-21-7-10-27(32)30-16-13-22(18-23)28(21)30)9-5-19-11-14-29(15-12-19)25-8-6-20-3-1-2-4-24(20)25;/h1-4,17-19,25H,5-16H2;1H
